US05318966
A suspension of 25 g (0.66 mol) of lithium aluminum hydride in 2 l of tetrahydrofuran was treated portionwise with 71.5 g (0.33 mol) of rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one. The mixture was boiled at reflux overnight, cooled to about -10° and then hydrolyzed by the successive dropwise addition of 25 ml of water, 25 ml of 15 percent sodium hydroxide solution and 75 ml of water. The solid residue was filtered off and rinsed with methylene chloride. The organic phases were concentrated. The residue was dissolved in methylene chloride and the solution was dried with sodium sulphate. After distillation of the solvent in a vacuum and crystallization in a refrigerator there were obtained 64.0 g (96%) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole as grey crystals.

reactant | lithium aluminum hydride | 0.66 mol, 25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-2H-benzo[e]indol-2-one | 0.33 mol, 71.5 g | COC1=CC=CC=2[C@H]3CC(N[C@H]3CCC21)=O | C13H15NO2
reactant | water | 25 ml | O | H2O
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | water | 75 ml | O | H2O
solvent | tetrahydrofuran | 2 l | O1CCCC1 | C4H8O
product | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 64.0 g, 96% | COC1=CC=CC=2[C@H]3CCN[C@H]3CCC21 | C13H17NO
